US04065573
A reaction solution consisting of 5.68 gm. (0.0201 mole) 4-(p-chlorophenyl)-4-methylaminocyclohexanone, ethylene ketal (prepared in Part G, above), 22 ml. 37 percent formalin (aqueous formaldehyde), and 75 ml. methanol is heated at the reflux temperature for 4 hours, after which heating the solution is allowed to cool and then chilled in an ice-bath. Small portions of sodium borohydride are cautiously added with stirring to a total of 2.89 gm. (0.076 mole). Stirring is continued for 2 hours at 25° C. when the solution is concentrated by removing most of the solvent under reduced pressure. The concentrate is diluted with a mixture of 100 ml. methylene chloride and 20 ml. water. The aqueous phase that separates is discarded, and the organic phase is washed successively with water and then with brine. The methylene chloride solvent is then removed by evaporation under reduced pressure. The residue thus obtained is dissolved in the formalin and methanol as initially, heated at the reflux temperature, cooled in an ice bath, and treated again with the sodium borohydride as previously. Following the same work-up as described, the crude 4-(p-chlorophenyl)-4-dimethylaminocyclohexanone, ethylene ketal free base obtained following the removal of the methylene chloride is dissolved in a small amount of diethyl ether, and the ether solution is treated with 3 N hydrogen chloride in ether. A precipitate forms which is recrystallized from methylene chloride and ethyl acetate to give 3.96 gm. (59% yield) of object compound 4-(p-chlorophenyl)-4-dimethylaminocyclohexanone, ethylene ketal hydrochloride having a melting point at 261° to 262° C. (with decomposition).

reactant | 4-(p-chlorophenyl)-4-methylaminocyclohexanone | 0.0201 mole | ClC1=CC=C(C=C1)C1(CCC(CC1)=O)NC | C13H16ClNO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | formalin | C=O | CH2O
solvent | methanol | CO | CH4O
product | 4-(p-chlorophenyl)-4-dimethylaminocyclohexanone | 59% yield | ClC1=CC=C(C=C1)C1(CCC(CC1)=O)N(C)C | C14H18ClNO
